US07947631B2
50 g (0.38 mol) of n-octanol was premixed with 3.5 mL of a 2.2M solution of lithium methoxide in methanol. The mixture was rapidly added at room temperature to 53 g (0.38 mol) diethylphosphite. The colour of the solution changed from colourless to yellow. The resultant mixture was then distilled under vacuum of 1.00 mBar. At 23° C. ethanol was removed. At 43-48° C., unreacted diethyl phosphite was distilled, with the remaining 65 g comprising a 1.6:1 mole mixture of ethyloctylphosphite and dioctylphosphite. The mixture of ethyloctylphosphite and dioctyl phosphite was added slowly at room temperature to 26 g of a 50% sodium hydroxide solution in water. The reaction was exothermic but did not require cooling, however, the rate of addition was adjusted such that the temperature did not exceed 50° C. Afterwards the mixture was treated dropwise with concentrated hydrochloric acid until a pH of 2 was measured. Two phases formed and the upper organic phase was separated. The n-octanol formed as a by-product of the reaction was removed under vacuum leaving behind 49.8 g of n-octyl phosphorous acid as a colourless liquid containing small amounts of sodium chloride.

reactant | n-octanol | 0.38 mol, 50 g | C(CCCCCCC)O | C8H18O
reactant | lithium methoxide | C[O-].[Li+]
reactant | diethylphosphite | 0.38 mol | C(C)OP(OCC)[O-]
reactant | ethyloctylphosphite | C(C)P([O-])([O-])([O-])CCCCCCCC
reactant | dioctylphosphite | C(CCCCCCC)OP(OCCCCCCCC)[O-]
reactant | dioctyl phosphite | P(OCCCCCCCC)(OCCCCCCCC)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | n-octyl phosphorous acid | 49.8 g | C(CCCCCCC)P(O)(O)O | C8H21O3P
